US04758577
0.64 gram (4.03 millimoles) of p-fluorobenzoyl chloride, 1.84 grams (18.2 millimoles) of triethylamine, 0.22 gram (1.82 millimoles) of 4-dimethylaminopyridine was added at ambient temperature to a solution of 1.00 gram (3.63 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine in 40 milliliters of dry methylene chloride while protected from atmospheric moisture and the mixture stirred for a total of about 50 minutes. About 10 grams of ice was added to the reaction mixture to quench the reaction and the resulting biphasic mixture stirred and allowed to warm to room temperature. The aqueous and organic phases were separated and the organic phase washed successively with 5 percent hydrochloric acid, aqueous bicarbonate and brine. The washed solution was dried over magnesium sulfate, the drying agent then filtered off and the solvent vaporized in vacuo to obtain 1.54 grams of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(p-fluorobenzoyl)piperidine residue which crystallized in a few hours at ambient temperature. Recrystallization from toluene produced white needles. The product had a melting point of 150°-151° C. Elemental analyses indicated presence of solvent of crystallization; the results calculated for 1 mole of toluene of crystallization were as follows:

reactant | p-fluorobenzoyl chloride | 4.03 millimoles, 0.64 gram | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | triethylamine | 18.2 millimoles, 1.84 grams | C(C)N(CC)CC | C6H15N
reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 3.63 millimoles, 1.00 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
catalyst | 4-dimethylaminopyridine | 1.82 millimoles, 0.22 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 milliliters | C(Cl)Cl | CH2Cl2
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(p-fluorobenzoyl)piperidine | 1.54 grams | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)C(C3=CC=C(C=C3)F)=O | C27H24FNO
